US08017602B2
Step i) tert-Butyl 3-(3-(1-allyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate
Cyclopropyl bromide (0.177 mL) was added in one portion to a mixture tert-butyl 3-(3-ethynylphenethoxy)propanoate [Example 4, Step ii)] (506 mg), sodium azid e (144 mg), tert-butanol (0.5 mL), water (2 mL) and copper(I) iodide (35.1 mg) and sealed into a microwave tube. The reaction was heated to 70° C., over a period of 3 h in the microwave reactor. The reaction mixture was diluted with ethyl acetate and 35% ammonia (1 mL) and ethyl acetate (2 mL) were added. The mixture was stirred for 30 min. and extracted into ethyl acetate. The organic was evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 20 to 100% ethyl acetate in isohexane to afford the titled compound (470 mg) as an oil. 1H NMR (400 MHz, CDCl3) δ 7.78 (s, 1H), 7.70 (s, 1H), 7.66 (d, J=7.9 Hz, 1H), 7.33 (t, J=7.7 Hz, 1H), 7.19 (d, J=7.7 Hz, 1H), 6.08 (ddt, J=5.9, 10.3 and 16.9 Hz, 1H), 5.41-5.32 (m, 2H), 5.03 (dt, J=6.2, 1.3 Hz, 2H), 3.70 (t, J=6.3 Hz, 2H), 3.69 (t, J=7.1 Hz, 2H), 2.92 (t, J=7.0 Hz, 2H), 2.48 (t, J=6.5 Hz, 2H), 1.43 (s, 9H)

reactant | Cyclopropyl bromide | 0.177 mL | C1(CC1)Br | C3H5Br
reactant | tert-butyl 3-(3-ethynylphenethoxy)propanoate | C(#C)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C17H22O3
reactant | sodium azid e | 144 mg | [N-]=[N+]=[N-].[Na+]
reactant | tert-butanol | 0.5 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonia | 1 mL | N | H3N
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 35.1 mg | [Cu]I
solvent | water | 2 mL | O | H2O
product | tert-Butyl 3-(3-(1-allyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate | 470 mg | C(C=C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C20H27N3O3
